US05780472
b) 1-[(5-ethyl-2-methoxy-6-methylpyridine-3-yl)aminocarbonyl]methyl-4-(2-methoxyphenyl)piperazine
After N-(5-ethyl-2-methoxy-6-metylpyridine-3-yl)chloroacetamide(0.10 g, 0.43 mmol) and 1-(2-methoxyphenyl)piperazine(0.0091 g, 0.47 mmol) were dissolved into tetrahydrofuran(5 ml) and was added DBU(0.060 g, 0.43 mmol), the reaction mixtures were stirred at room temperature for 2 hours. After the product of reaction were concentrated, separated by column chromatography to obtain 0.12 g of the titled compound.

reactant | N-(5-ethyl-2-methoxy-6-metylpyridine-3-yl)chloroacetamide | 0.43 mmol, 0.10 g | C(C)C=1C=C(C(=NC1C)OC)NC(CCl)=O | C11H15ClN2O2
reactant | 1-(2-methoxyphenyl)piperazine | 0.47 mmol, 0.0091 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | DBU | 0.43 mmol, 0.060 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[(5-ethyl-2-methoxy-6-methylpyridine-3-yl)aminocarbonyl]methyl-4-(2-methoxyphenyl)piperazine | 0.12 g, yield: 70% | C(C)C=1C=C(C(=NC1C)OC)NC(=O)CN1CCN(CC1)C1=C(C=CC=C1)OC | C22H30N4O3
